Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  Mr. ___ is a 
___
male with active tobacco use and presumptive history of a
cardiomyopathy/chronic systolic heart failure, albeit without
collateral documentation or point-of-care echocardiogram,
presents with lightheadedness and coordination of cardiology
care. ___ emigrated from ___ some years ago,
then moved from ___ on ___ to join his wife and two
children in ___. He is ill informed, and less forthcoming 
this
evening, but, per other providers, apparently reported a
cardiomyopathy with an left ventricular ejection fraction on the
order of ___. He does tell me he was hospitalized about ___
years ago under unclear circumstances and was diagnosed at that
time. They seemingly never uncovered the cause of his
cardiomyopathy. He described what might be an unrevealing
coronary angiogram. He was drinking "a lot" then, meaning "pints
of vodka," so might have attributed his cardiomyopathy to this.
He admits to alcohol consumption since, but his report is
inconsistent among providers here. He does not have an ICD. He
cannot recall the name of his cardiologist, his medications, or
dry weight. I called his wife, who was in transit, so could not
recite his medications. She thinks he has a cardiologist by the
name ___ in ___, ___), but he is seemingly an emergency department
physician. ___ has not taken any medications for at least 
four
weeks, which, in part, prompted him to seek care. He, moreover,
was "dizzy" at work today, meaning lightheadedness, prompting 
him
to seek care. This has since resolved and he is entirely
asymptomatic now. He works in ___ at ___, but
could not describe any activities temporally related to his
spell. He likewise cannot comment on nutrition or hydration. He
syncopized about year ago and this sensation was somewhat akin 
to
that. He felt "weak" all over but had no preceding chest pain,
shortness of breath, or palpitations. These spells probably 
occur
weekly. He is afebrile and hemodynamically stable with normal
oxygenation here. Labs are notable for a normal CBC, renal
function, and hypokalemia to 3.4. Liver function tests are 
within
normal limits. Lactate is 2.4. Troponin is undetectable. proBNP
is 88. ECG is NSR. Telemetry is unrevealing. There is no chest
x-ray. He received lisinopril 10 mg and Lopressor 12.5 mg. He 
was
hypoglycemic once or twice to 50-range, despite glucose gel, so
received dextrose-containing fluid. It is not clear if he was
ever symptomatic while hypoglycemic. 

REVIEW OF SYSTEMS: Constitutionally, he otherwise feels well. He
has not documented a fever at home and denies rigors, anorexia,
or recent illnesses. He is not certain about changes to his
weight. He has detected decreased visual acuity on other
occasions of lightheadedness. He is not dyspneic when ambulating
or performing other strenuous occupational maneuvers. He denies
orthopnea or PND. He has no chest pain, lower extremity edema, 
or
abdominal distention. He might have appreciated a fast heart 
rate
in the past. He denies gastrointestinal distress or lower 
urinary
tract symptoms.

 
Past Medical History:
-Presumptive cardiomyopathy/chronic systolic heart failure.
-Alcohol use of unclear significance. 

 
Social History:
___
Family History:
He learned from a paternal uncle today that
"everyone" has "heart problems" and diabetes, but he cannot
elaborate.  

 
Physical Exam:
============================
ADMISSION PHYSICAL EXAM
============================
VITALS: T 97.6 HR 67 127/82
GENERAL: Young male in no apparent physical distress.
HEENT: Anicteric sclerae. Oropharynx clear.
NECK: JVP is 8-10 cm. There is no HJR.
CV: Regular rate and rhythm. S1/S2. No murmur or gallop. PMI is
not displaced.
PULM: Comfortable. Lungs clear.
ABDOMEN: Soft. Non-distended. Non-tender. No hepatomegaly.
EXTREMITIES: Warm. No edema. Pulses palpable and symmetric.
NEURO: Non-focal.
SKIN: Within normal limits.

===========================
DISCHARGE PHYSICAL EXAM
===========================
 
Pertinent Results:
==========================
ADMISSION LAB RESULTS
==========================
___ 10:40AM BLOOD WBC-6.2 RBC-4.81 Hgb-15.7 Hct-42.2 MCV-88 
MCH-32.6* MCHC-37.2* RDW-12.4 RDWSD-39.9 Plt ___
___ 10:40AM BLOOD Neuts-53.6 ___ Monos-8.7 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-3.33 AbsLymp-2.23 AbsMono-0.54 
AbsEos-0.06 AbsBaso-0.03
___ 10:40AM BLOOD ___ PTT-29.3 ___
___ 10:40AM BLOOD Glucose-71 UreaN-9 Creat-1.0 Na-145 
K-3.4* Cl-106 HCO3-23 AnGap-16
___ 10:40AM BLOOD ALT-10 AST-16 AlkPhos-79 TotBili-0.4
___ 10:40AM BLOOD proBNP-88
___ 10:40AM BLOOD cTropnT-<0.01
___ 10:40AM BLOOD Albumin-4.6 Calcium-9.1 Phos-3.2 Mg-2.0
___ 10:54AM BLOOD Lactate-2.4*

==========================
DISCHARGE LAB RESULTS
==========================
___ 06:23AM BLOOD WBC-5.2 RBC-4.80 Hgb-15.8 Hct-42.6 MCV-89 
MCH-32.9* MCHC-37.1* RDW-12.5 RDWSD-40.8 Plt ___
___ 06:23AM BLOOD Glucose-89 UreaN-11 Creat-1.0 Na-142 
K-4.3 Cl-107 HCO3-21* AnGap-14
___ 06:23AM BLOOD Calcium-9.4 Phos-3.2 Mg-2.0 Iron-246* 
Cholest-136
___ 06:23AM BLOOD calTIBC-389 Ferritn-142 TRF-299
___ 06:23AM BLOOD %HbA1c-4.9 eAG-94
___ 06:23AM BLOOD Triglyc-53 HDL-58 CHOL/HD-2.3 LDLcalc-67
___ 10:40AM BLOOD TSH-1.3

==========================
IMAGING AND REPORTS
==========================
ADMISSION CHEST X-RAY ___
IMPRESSION:  
No pneumonia or acute cardiopulmonary process. 

TRANSTHORACIC ECHO ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is
normal left ventricular wall thickness with a normal cavity 
size. There is mild global left ventricular hypokinesis. 
Quantitative biplane left ventricular ejection fraction is 44 % 
(normal 54-73%). Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg).
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is mild [1+] mitral regurgitation. The 
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is an eccentric, interatrial 
sepal directed jet of mild [1+] tricuspid regurgitation. There 
is mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.
IMPRESSION: 
Normal left ventricular wall thickness and biventricular cavity 
sizes. Mild global left ventricular hypokinesis. Normal right 
ventricular free wall systolic function. Mild mitral and 
tricuspid regurgitaiton. Mild pulmonary hypertension.

  

 
Brief Hospital Course:
Mr. ___ is a ___ year old man originally from ___ who 
recently moved to ___, history of tobacco and alcohol use, 
possibly previous diagnosis of cardiomyopathy presented with 
light-headedness. He underwent TTE which showed reduced EF of 
44%. He will follow up with cardiology outpatient.

ACUTE PROBLEMS:
===============
# Heart failure borderline reduced ejection fraction
Patient reported that he had previously been admitted for heart 
failure with ejection fraction around 15%. This occurred in 
___ prior to his move to ___. He is not sure what caused 
his heart failure and is overall a poor historian. He took 
medications after this event including metoprolol, Lasix, 
lisinopril but reported that he hasn't taken them in at least a 
year. He did not present with symptoms of HF exacerbation but 
did complain of light-headedness while at work. He did not have 
any evidence of arrhythmia on telemetry. He was euvolmeic 
without orthostatic vital signs. A TTE showed borderline reduced 
ejection fraction of 44% without significant valvular disease. 
It was presumed that he may have had a diagnosis of HFrEF in the 
past from which he has now recovered. The most likely culprit 
would be alcohol-induced given that the patient reported 
drinking pints of vodka but has been quite variable with his 
story. He will be discharged with metoprolol succinate and 
lisinopril. Dr. ___ will see him in clinic, and he will also 
be set up with a new PCP.

# Light-headedness 
# Hypoglycemia
When patient presented to the ED he was found to be hypoglycemic 
to the ___. He received dextrose solutions but subsequently 
became hypoglycemic again. After admission this did not recur. 
This is most likely explanation for his complaints of 
light-headedness. He will be setup with new PCP for continued 
workup. Would consider insulinoma in the setting of recurrent 
hypoglycemia. 

# Alcohol use
His report of alcohol consumption is inconsistent among various 
providers. He admits that he used to drink quite a bit but has 
since cut down. Would continue ongoing discussion with patient 
to encourage reduced alcohol consumption. 

=========================
TRANSITIONAL ISSUES
=========================
[ ] Follow up episodes of hypoglycemia. Occurred several times 
in the ED and recurred despite administration of dextrose. Could 
be a likely explanation for his presenting light-headedness.
[ ] New medications: lisinopril and metoprolol succinate
[ ] Follow up with Dr. ___ in clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Lisinopril 5 mg PO BID 
3. Metoprolol Succinate XL 50 mg PO BID 
4. Furosemide 80 mg PO DAILY 
5. Spironolactone 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3. HELD- Spironolactone 12.5 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until instructed by your new 
cardiologist.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Heart failure borderline reduced ejection fraction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because of feeling 
light-headed. Please see below for more information on your 
hospitalization. It was a pleasure participating in your care!  
 
We wish you the best!
- Your ___ Healthcare Team  

What happened while you were in the hospital?  
- You were evaluated by the cardiology team.
- You had a study done of your heart which showed that the pump 
function of your heart was slightly reduced around 44%.
- You were started on medications to help your heart disease.
- You were improved significantly and were ready to leave the 
hospital.

What should you do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

 
Followup Instructions:
___